data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2816,"C1CC[NH+:1]([H:2])C1.CC1(CCC(C)(N2CCCC2)[O-:3])C(=O)CCCC1=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,451,"C[NH+](C)C1=CC=C[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,5094,"Br[PH+:1](Br)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5768,"CC1([OH:1])CCCC(=O)C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7460,"COC1=CC=CC(CC[NH:1][C:2](C)(Cl)[O:3]P(=O)(Cl)Cl)=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4918,"C[C:1](S)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5754,"C[CH:1]([H:2])[CH+:3]C.[OH2:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,513,"NC(C1=CC=CC=C1)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9428,"CC(=O)CC[CH:1]([C:2]#N)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6545,"C[CH:1]=[OH+:2].C[NH:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9337,"CCOC(O)(CC(=O)O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6374,"CC(C)(O[OH:1])C1=CC=CC=C1.O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6338,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1(O)CCC2(CC1)OCC[O:3]2.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9153,"C=CC[C:1](C)([C:2](C)([CH2:3]C=C)[OH:4])[OH2+:5].O=C[O-]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,5674,"CCCCCCCCCCCCCCCCCCCCCCCCCCCCC[CH:1]=[O:2].[H:3][BH3-:4].[Na+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5375,"CC(O[B-](F)(F)F)(C1=CC(C#N)=CC=C1)[O+:1](CCO)[H:2].CCOCC.OCC[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8802,"C[C:1](O)([NH2+:2]C)[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6444,"C[OH+:1][Si-:2](C)(C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,2851,"C1CC[CH:1]([Br:2])C([Br:3])C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3247,"CC[Si](CC)(CC)[O+:1](C)[B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,3863,"CCNC(C)(O)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7222,"C[P:1](C)C.[Br][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,7277,"CC1(O)CC=C(C2=CC=C(S(C)(=O)=O)C=C2)[N+:1]1(C1=CC=C(F)C=C1)[H:2].CC1=CC=C(S(=O)(=O)[O-])C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1895,"CNC(=O)[NH+:1]=[CH:2]C1=CC=CC=C1.COC(=O)[CH:3]=[C:4](C1=CC=CC=C1)[OH:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6924,"CC1=C(C#N)C(=O)N2CC[C:1](=[OH+:2])C2=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3611,"CC(=O)CC[C:1](C)([NH:2]CCO)[OH2+:3].CC(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9980,"CO[C:1]1=[CH:2]C=CC([N+](=O)[O-])=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,2475,"CSC.CSC1CCCCC1[NH2+:1][H:2].F[B-](F)(F)F.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3220,"CC(C)C(O)[O:1]C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,910,"C[C+:1]=O.O=S(=O)(O)C1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,4376,"C[CH:1]([H:2])[C:3](Br)=[OH+:4].[Br-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6249,"O[C:1](OCCC[OH:2])=[NH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5675,"C1CCOC1.COC1=C(Br)C([CH:1]([OH:2])[OH+:3]CCCO)=C(OC)C=C1.O.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2888,"C1=CC=CC=C1.C[CH:1]=[CH2:2].O=P(O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8576,"O=C([O-])C=C(CC1=CC=CC=C1)[O:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1525,"C1[CH2:1][O:2]1.C[S:3](C)=O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5306,"CO.COC(=O)CCC1=C(C)NC(C=[O+:1][H:2])=C1C.O=C(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8754,"CC1=C[CH+:1][C:2](S(=O)(=O)O)([H:3])O1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4396,"CC(=O)[O][Sn-]([Br])([Br])([Br])[Br:1].CC1=CC=C(S(=O)(=O)OC2=CC=C(C3C[CH+:2]CC(CCC4=CC=C(OCC5=CC=CC=C5)C=C4)O3)C=C2)C=C1|(1, 2)"
train,pmechdb_split_0,0,6043,"Cl[C:1]1=[CH:2][CH:3]=[N:4]C=C1.[OH-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5834,"CCC(O)C1=[N:1]CCO1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,870,"C[CH:1]1[OH+:2]CC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1137,"C1=NN=N[N-:1]1.CO[P+:2](OC)(N(C)C)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9790,"C[O:1]C(N)(O)C1=CC=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3636,"C#CC(O)C1=CC=C(OCCCCC2=CN(C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=[N:1]2)C=C1.CCO.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3784,"CC(=O)[CH2:1][Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7000,"C1CCOC1.CCC1(O)C(=O)OCC2=C1C=C1N(CC[C:1]13[OH+:2]CC[O:3]3)C2=O.O.O=C([O-])C(F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3656,"CNC(=O)CC1(C2=CC(OC)=C(OC)C=C2)CCC(=O)CC1[O-:1].C[NH2+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7161,"CO[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.C[C+:3]=O|((1, 2), 3)"
